US09382188B2
step 2) 3-(3-(3-((methoxymethoxy)methyl)phenyl)oxiran-2-yl)propanenitrile
m-Chloroperbenzoic acid (3.77 g) was added to a solution of (E)-5-(3-((methoxymethoxy)methyl)phenyl)pent-4-enenitrile (2.08 g) in ethyl acetate (20 mL) at room temperature, and the mixture was stirred at 80° C. for 1 hr. Saturated aqueous sodium thiosulfate solution was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium thiosulfate solution, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (1.07 g) as a colorless oil.

reactant | m-Chloroperbenzoic acid | 3.77 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (E)-5-(3-((methoxymethoxy)methyl)phenyl)pent-4-enenitrile | 2.08 g | COCOCC=1C=C(C=CC1)/C=C/CCC#N | C14H17NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-(3-((methoxymethoxy)methyl)phenyl)oxiran-2-yl)propanenitrile | 1.07 g | COCOCC=1C=C(C=CC1)C1C(O1)CCC#N | C14H17NO3
